US03946004
Reaction of 2-methoxyphenothiazine, 2-pyrrolidinone and phosphorus oxychloride in 1,2-dichloroethane according to the procedure of Example 1 affords 2-METHOXY-10-[1-(1-PYRROLIN-2-YL)-2PYRROLIN-2-YL]PHENOTHIAZINE free base, m.p. 151°-153° C. (corr.), from isopropyl alcohol.

reactant | 2-methoxyphenothiazine | COC1=CC=2NC3=CC=CC=C3SC2C=C1 | C13H11NOS
reactant | 2-pyrrolidinone | N1C(CCC1)=O | C4H7NO
reactant | phosphorus oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | 1,2-dichloroethane | ClCCCl | C2H4Cl2
product | 2-METHOXY-10-[1-(1-PYRROLIN-2-YL)-2PYRROLIN-2-YL]PHENOTHIAZINE | COC1=CC=2N(C3=CC=CC=C3SC2C=C1)C=1N(CCC1)C1=NCCC1 | C21H21N3OS
